US08686150B2
(e) 6-(4-Hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (4-methyl-piperidin-4-yl)-amide
To a solution of 6-(4-hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (1-benzyl-4-methyl-piperidin-4-yl)-amide (136 mg) in methanol (2 mL) was added palladium (10% on charcoal, 27 mg). Argon was purged through the mixture, then the mixture was saturated with hydrogen and stirred at r.t. overnight. The catalyst was filtered off, the residue was concentrated in vacuo, the residue was re-dissolved in fresh methanol (2 mL) and fresh palladium (10% on charcoal, 27 mg) was added. The mixture was again stirred at r.t. for 1 week. The catalyst was filtered off, the residue was concentrated in vacuo to give 75 mg (66%) of the title compound.

reactant | 6-(4-hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (1-benzyl-4-methyl-piperidin-4-yl)-amide | 136 mg | C(C1=CC=CC=C1)N1CCC(CC1)(C)NC(=O)C=1C2=C(N=C(C1)C1=CC=C(C=C1)O)N(N=C2C)C2OCCCC2 | C32H37N5O3
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium | 27 mg | [Pd] | Pd
product | 6-(4-Hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (4-methyl-piperidin-4-yl)-amide | 75 mg, 66% | CC1(CCNCC1)NC(=O)C=1C2=C(N=C(C1)C1=CC=C(C=C1)O)N(N=C2C)C2OCCCC2 | C25H31N5O3
